US09382197B2
methyl 4-acetyl-3-methoxybenzoate
Methyl 4-bromo-3-methoxybenzoate (0.53 g, 2.2 mmol), 1,3-bis(diphenylphosphino)propane (0.050 g, 0.12 mmol), sodium carbonate (0.510 g, 4.81 mmol) and palladium (II) acetate (0.024 g, 0.11 mmol) were combined in a 5 mL microwave vial. The vial was sealed and purged with argon. Methanol (2.50 mL, 61.7 mmol) and n-butyl vinyl ether (1.12 mL, 8.74 mmol) were added by syringe, and the mixture was sonicated under argon flow for several minutes, then heated to 90° C. over night. Upon cooling to room temperature, celite (1 g) was added. The mixture was diluted with methanol (5 mL) and the slurry was then filtered. The filter cake was washed with methanol and to the pale red/brown methanolic filtrate was added 6M aqueous HCl (2.5 mL). The solution turned yellow and then turbid white over stirring at room temperature (0.5 h). The solvent was removed under reduced pressure and the residue obtained was partitioned between ethyl acetate (50 mL) and half-saturated aqueous sodium bicarbonate solution (25 mL). The aqueous phase was extracted with ethyl acetate (30 mL). The organic extracts were combined, washed with brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography (15-85% EtOAc/hexanes gradient) to afford the title compound (0.396 g, 87%). LC-MS: (FA) ES+ 209; 1H NMR (300 MHz, DMSO) δ 7.69-7.53 (m, 3H), 3.94 (s, 3H), 3.88 (s, 3H), 2.54 (s, 3H).

reactant | Methyl 4-bromo-3-methoxybenzoate | 2.2 mmol, 0.53 g | BrC1=C(C=C(C(=O)OC)C=C1)OC | C9H9BrO3
reactant | sodium carbonate | 4.81 mmol, 0.510 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | n-butyl vinyl ether | 8.74 mmol, 1.12 mL | C(=C)OCCCC | C6H12O
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium (II) acetate | 0.11 mmol, 0.024 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,3-bis(diphenylphosphino)propane | 0.12 mmol, 0.050 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
solvent | Methanol | 61.7 mmol, 2.50 mL | CO | CH4O
product | methyl 4-acetyl-3-methoxybenzoate | 0.396 g, 87% | C(C)(=O)C1=C(C=C(C(=O)OC)C=C1)OC | C11H12O4
